US06984657B1
N-[(4-chloro-3-ethylphenyl)methyl]5-hydroxyindole-2-carboxylic Acid
Sodium hydroxide (2M, 1.8 ml) was added to a solution of ethyl N-[(4-chloro-3-trimethylsilylethynylphenyl)methyl]-5-acetoxyindole-2-carboxylate (0.14 g) in methanol (5 ml) and the mixture was stirred for 3 hours. The methanol was removed and the residue obtained was diluted with water (20 ml) and extracted twice with ethyl acetate (20 ml each time). The aqueous layer was acidified with aqueous hydrochloric acid (2M) and extracted with ethyl acetate (3×25 ml). The combined ethyl acetate extracts were washed with water (30 ml) and brine (30 ml) and dried (MgSO4). The residue obtained on removal of the solvent was dissolved in a mixture of ethyl acetate and iso-hexane (1:1) and passed down a 5 g silica Isolute column eluting with an ethyl acetate iso-hexane mixture (1:1) to give the title compound (65 mg). NMR (CD3SOCD3): d 4.5 (s, 1H), 5.7 (s, 2H), 6.8 (m, 1H), 6.9 (m, 2H), 7.1 (m, 1H), 7.2 (s, 1H), 7.35 (m, 1H), 7.4 (m, 2H), 9.0 (s, 1H); m/z 324.4 (M−H).

reactant | Sodium hydroxide | 2M, 1.8 ml | [OH-].[Na+]
reactant | ethyl N-[(4-chloro-3-trimethylsilylethynylphenyl)methyl]-5-acetoxyindole-2-carboxylate | 0.14 g | ClC1=C(C=C(C=C1)CN1C(=CC2=CC(=CC=C12)OC(C)=O)C(=O)OCC)C#C[Si](C)(C)C | C25H26ClNO4Si
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | iso-hexane | CCCC(C)C | C6H14
product | N-[(4-chloro-3-ethylphenyl)methyl]5-hydroxyindole-2-carboxylic Acid | 65 mg | ClC1=C(C=C(C=C1)CN1C(=CC2=CC(=CC=C12)O)C(=O)O)CC | C18H16ClNO3
